US04837394
4-carbomethoxyphenylmethyldiphenylphosphonium 3,5-bis(carbomethoxy)benzenesulfonate
A mixture of 16.0 g (0.05 mol) of p-carbomethoxyphenyldiphenylphosphine and 14.41 g (0.05 mol) of methyl 3,5-bis(carbomethoxy)benzenesulfonate was heated in a 130° C. bath with nitrogen bubbling through the melt for 2.5 hours.

reactant | p-carbomethoxyphenyldiphenylphosphine | 0.05 mol, 16.0 g | C(=O)(OC)C1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | methyl 3,5-bis(carbomethoxy)benzenesulfonate | 0.05 mol, 14.41 g | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)S(=O)(=O)OC | C11H12O7S
product | 4-carbomethoxyphenylmethyldiphenylphosphonium 3,5-bis(carbomethoxy)benzenesulfonate | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)S(=O)(=O)[O-].C(=O)(OC)C1=CC=C(C=C1)C[PH+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H19O2P.C10H10O7S/c1-23-21(22)18-14-12-17(13-15-18)16-24(19-8-4-2-5-9-19)20-10-6-3-7-11-20;1-16-9(11)6-3-7(10(12)17-2)5-8(4-6)18(13,14)15/h2-15H,16H2,1H3;3-5H,1-2H3,(H,13,14,15)
